US07501541B2
N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid
0.35 g (0.62 mmol) N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid benzyl ester in 20 mL ethyl acetate and 0.37 mL acetic acid was hydrogenated over Pd/C with atmospheric pressure of H2 for 16 h at room temperature. The catalyst was filtered off and the and the filtrate evaporated to dryness. The acid was used without further purification in the consecutive step. MS(m/e): 488.2 (MH+).

reactant | N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid benzyl ester | 0.62 mmol, 0.35 g | C(C1=CC=CC=C1)OC(C(C(=O)N(CCC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1)=O | C33H30F3NO5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.37 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid | COC=1C=C(C=CC1OC)N(C(C(C(=O)O)C1=CC=CC=C1)=O)CCC1=CC=C(C=C1)C(F)(F)F | C26H24F3NO5
